US04416884
3.8 g of 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride was added to 100 ml of water and 1 N aqueous sodium hydroxide solution was added thereto followed by heating the mixture to form a uniform solution. The solution was rendered alkaline (pH=8) with dilute hydrochloric acid to obtain 3.1 g of 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as colorless needles having a melting point of 264° to 265° C.

reactant | 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid hydrochloride | 3.8 g | Cl.N1(CCNCC1)C1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 8-(1-piperazinyl)-5-methyl-6,7-dihydro-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 3.1 g | N1(CCNCC1)C1=CC=C2CC(=CN3C(CCC1=C23)C)C(=O)O | C18H23N3O2
